US07528176B2
(2,3,5,6-tetrafluorophenyl)(5-bromothien-2-yl)methanone.
To a mixture of perfluorobenzoyl chloride (2.51 g, 10.9 mmol) and 2-bromothiophene (1.86 g, 11.4 mmol) in carbon disulfide (80 mL), aluminum chloride (2.90 g, 21.8 mmol) was added in portions over 10 min with vigorous mechanical stirring. The reaction mixture turned red and was stirred for 2.5 h before being quenched with water (80 mL). The organics were then separated, the aqueous layer extracted with carbon disulfide (3×50 mL), and the combined organics washed with water (3×100 mL) and dried over MgSO4. After filtration, the organics were concentrated in vacuo and the chromatographed on a silica gel column (hexane:ether=9:1) to yield 1.23 g (32%) green crystals. mp 51-54° C.; 1H NMR (DMSO): δ 7.78 (d, 2H, 3J=3.6 Hz), 7.54 (d, 2H, 3J=4.4 Hz); 19F NMR (DMSO): δ −142.1 (m, 2H), −151.6 (m, 1H), −160.6 (m, 2H) Anal. Calcd for C11H2BrF5OS: C 37.00, H 0.56. Found: C 37.37, H 0.83; MS (EI): m/z (%) 355.8 (92) [M+].

reactant | perfluorobenzoyl chloride | 10.9 mmol, 2.51 g | FC1=C(C(=O)Cl)C(=C(C(=C1F)F)F)F | C7ClF5O
reactant | 2-bromothiophene | 11.4 mmol, 1.86 g | BrC=1SC=CC1 | C4H3BrS
reactant | aluminum chloride | 21.8 mmol, 2.90 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 80 mL | C(=S)=S | CS2
product | (2,3,5,6-tetrafluorophenyl)(5-bromothien-2-yl)methanone | 1.23 g, 32% | FC1=C(C(=C(C=C1F)F)F)C(=O)C=1SC(=CC1)Br | C11H3BrF4OS
